US07790793B2
Preparation of N-(3-methylbutyl)-3,5-bis-(3-methylbutyrylamino)benzamide
from 0.50 g (2.26 mmol) of 3,5-diamino-N-(3-methylbutyl)-benzamide, 0.64 g (5.31 mmol) of 3-methylbutyric acid chloride, 30 ml of NMP, 5 ml of pyridine and 0.05 g of LiCl according to Method A.

reactant | 3,5-diamino-N-(3-methylbutyl)-benzamide | 2.26 mmol, 0.50 g | NC=1C=C(C(=O)NCCC(C)C)C=C(C1)N | C12H19N3O
reactant | 3-methylbutyric acid chloride | 5.31 mmol, 0.64 g | CC(CC(=O)Cl)C | C5H9ClO
reactant | NMP | 30 ml | CN1CCCC1=O | C5H9NO
reactant | LiCl | 0.05 g | [Li+].[Cl-]
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-methylbutyl)-3,5-bis-(3-methylbutyrylamino)benzamide | CC(CCNC(C1=CC(=CC(=C1)NC(CC(C)C)=O)NC(CC(C)C)=O)=O)C | C22H35N3O3
